Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Vertigo, Ataxic gait

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a pleasant ___ man with
hypertension, hyperlipidemia, question TIA, vertigo with 
recently
discontinued Klonopin who presents with persistent feeling of
imbalance and unsteady gait for the last 10 days.

He has had vertigo described as a room spinning sensation that
would last for a very short period of time in the setting of
moving for the last 15+ years.  He was started on meclizine and
Klonopin, and has been taking these medications daily since 
then.
About a week and a half ago, his primary care doctor did not
renew his Klonopin prescription which was 0.5 mg twice per day. 
He was unable to take any more, and 2 days after stopping this
medication abruptly, he felt very off balance and was unable to
walk.  He continues on the meclizine.

He reports feeling off balance, and this has been progressively
getting worse over the last 10 days.  This feeling of imbalance
is usually gone if he watches television, but if he ever moves
his ___ then everything seems to start to move.  He endorses
some nausea but denies vomiting.  He is unable to walk without
holding onto walls or furniture.  Endorses right ear tinnitus 
and
also sensation of a popping in his right ear as well.  He denies
any ear pain or hearing loss.  He denies any recent cough, cold,
fever, chills, night sweats.

About ___ years ago, he had an episode where he was unable to get
any words out and did not recognize people.  He was well enough
however to drive home.  This lasted about 20 minutes, and it is
unclear if this was a TIA versus a seizure.  Of note in ___, he
was found to have an old right caudate nucleus basal ganglia
lacunar infarct on a routine CT scan of his ___ in the setting
of evaluating for vertigo.

About ___ months ago, he developed diplopia.  It was better with
glasses.  He denies any current di he denies any recent
infections, cold, fever, night sweats plopia.  He also denies 
any
focal motor weakness or numbness.
 
Past Medical History:
Hypertension, hyperlipidemia, question TIA over ___ years
ago, coronary artery disease, MI, COPD, stage I colon cancer
status post resection, communicating hydrocephalus, vertigo
 
Social History:
___
Family History:
Mother with ___, father with strokes

 
Physical Exam:
==============
ADMISSION EXAM
==============
Vitals:  T: 97.4F  HR: 86  BP: 188/57  RR: 18  SaO2: 97% RA
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR 
Pulmonary: Breathing comfortably
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, speech is fluent with 
full
sentences and intact verbal comprehension.  No paraphasias.  No
dysarthria. Normal prosody. No evidence of hemineglect. No
left-right confusion.  Able to follow both midline and
appendicular commands.

- Cranial Nerves: PERRL 2-->1 brisk. VF full to number counting.
EOMI, no nystagmus.  No skew.  Positive ___ impulse test
bilaterally in the setting of patient being unable to relax his
neck.  V1-V3 without deficits to light touch bilaterally. No
facial movement asymmetry. Hearing intact to finger rub
bilaterally.  Palate elevation symmetric. SCM/Trapezius strength
___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.
  [Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     5    5     5     5     5    5 
 R   5     5     5     5     5    5     5     5     5    5

- Reflexes: 
       [Bic] [Tri] [___] [Quad] [Gastroc]
     L  2+    2+     2+      0       0
     R  2+    2+     2+      0       0  
Plantar response flexor bilaterally 

- Sensory: No deficits to light touch throughout, mild decrease
in proprioception in bilateral feet

- Coordination: No dysmetria with finger to nose testing
bilaterally.  No overshoot on your testing.  Difficult to assess
for cerebellar rebound due to patient not understanding command. 

Some truncal ataxia, he is unable to hold his arms and and 
closes
eyes without feeling like he is going to fall backwards while
sitting on the edge of the bed.

- Gait: Normal initiation.  Wide base.  Unable to walk without
holding onto someone.  With a wide-based stance, he is a very
unstable.

==============
DISCHARGE EXAM
==============
Essentially unchanged. 
 
Pertinent Results:
====
LABS
====
___ 06:35AM BLOOD WBC-10.1* RBC-4.26* Hgb-12.5* Hct-38.3* 
MCV-90 MCH-29.3 MCHC-32.6 RDW-12.1 RDWSD-39.5 Plt ___
___ 06:35AM BLOOD Neuts-76.4* Lymphs-15.1* Monos-6.5 
Eos-1.1 Baso-0.4 Im ___ AbsNeut-7.70* AbsLymp-1.52 
AbsMono-0.65 AbsEos-0.11 AbsBaso-0.04
___ 06:23AM BLOOD WBC-9.5 RBC-4.34* Hgb-12.7* Hct-38.8* 
MCV-89 MCH-29.3 MCHC-32.7 RDW-12.2 RDWSD-39.6 Plt ___
___ 06:10AM BLOOD WBC-9.1 RBC-3.98* Hgb-11.7* Hct-35.7* 
MCV-90 MCH-29.4 MCHC-32.8 RDW-12.1 RDWSD-39.8 Plt ___
___ 06:35AM BLOOD ___ PTT-30.0 ___
___ 06:10AM BLOOD ___ PTT-31.9 ___
___ 06:35AM BLOOD Glucose-100 UreaN-19 Creat-1.6* Na-134 
K-4.2 Cl-97 HCO3-21* AnGap-20
___ 06:10AM BLOOD Glucose-107* UreaN-33* Creat-2.0* Na-140 
K-4.1 Cl-104 HCO3-24 AnGap-16
___ 06:10AM BLOOD ALT-11 AST-22 LD(LDH)-156 AlkPhos-63 
TotBili-0.2
___ 06:35AM BLOOD Calcium-9.0 Phos-2.9 Mg-1.9 Cholest-186
___ 06:23AM BLOOD Calcium-9.0 Phos-3.6 Mg-2.0
___ 06:10AM BLOOD Albumin-3.7 Calcium-8.6 Phos-3.9 Mg-2.1
___ 06:10AM BLOOD VitB12-1086*
___ 07:58AM BLOOD %HbA1c-5.6 eAG-114
___ 06:35AM BLOOD Triglyc-166* HDL-59 CHOL/HD-3.2 
LDLcalc-94
___ 06:35AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 11:24AM BLOOD PARANEOPLASTIC AUTOANTIBODY 
EVALUATION-PND
___ 06:10AM BLOOD SED RATE-PND

=======
IMAGING
=======
- ___ CT ___ WO Contrast
Ventriculomegaly with sulcal prominence likely due to age 
related involution. The possibility of normal pressure 
hydrocephalus is also raised and clinical correlation is 
advised.  No hemorrhage.

- ___ MR ___
1. No evidence of intracranial hemorrhage or acute infarction.
2. Moderate global volume loss and chronic small vessel ischemic 
disease.
3. Moderate irregularity along the cavernous and supraclinoid 
portions of the internal carotid arteries bilaterally without 
high-grade stenosis.
4. 3 mm aneurysm arising from the cavernous segment of the left 
internal
carotid artery.
5. 1 mm outpouching arising from the cavernous right internal 
carotid artery may represent a tiny aneurysm or infundibulum of 
a branch vessels.
6. Linear filling defect in the proximal right subclavian artery 
resulting in high-grade focal narrowing may represent a 
dissection flap versus torturous turn of the vessel.
7. There is greater than 80% stenosis of the right cervical 
internal carotid artery by NASCET criteria.  Less than 25% 
stenosis of the left cervical internal carotid artery by NASCET 
criteria.
8. Moderate focal narrowing of the origin of the dominant left 
vertebral
artery. 
9. Multifocal irregularity along the V1 and V4 segments of the 
nondominant
right vertebral artery, likely from atherosclerotic disease.
 
RECOMMENDATION(S):  The findings were discussed with ___, 
M.D. by ___, M.D. on the telephone on ___ at 
10:23 AM, 5 minutes after discovery of the findings.

- ___ Chest (PA & LAT)
Read pending
 
Brief Hospital Course:
___ is an ___ man with a long smoking history, 
vascular risk factors, and chronic positional vertigo, who 
presented with new gait instability and worsening dizziness that 
has been progressive over 10 days. On exam he has mild cognitive 
impairment (MOCA was ___, significant gait ataxia, and less 
prominent appendicular ataxia. There is possibly a superimposed 
magnetic quality to his gait, which may be related to the 
atrophy, small vessel disease, and/or enlarged ventricles seen 
in his frontal lobes on brain MRI. The differential diagnosis 
for his ataxia includes toxic exposures (like alcohol), 
nutritional deficiencies like Wernicke's encephalopathy, 
paraneoplastic syndrome such as those seen with lung cancer, 
partial ___ syndrome, and hereditary ataxias. I have 
found no reports of stopping benzodiazepines as a cause for new 
truncal ataxia though the patient is convinced this is the 
cause. Given the acute-subacute timeline, paraneoplastic 
syndrome, Wernicke encephalopathy, or partial ___ seem 
more likely than cerebellar degeneration from alcohol or 
hereditary causes. The patient and refused most studies 
including chest Xray and lumbar puncture for further workup. A 
serum paraneoplastic panel has been sent and is pending. His 
Crestor dose was increased given his atherosclerosis seen on 
vessel imaging. He has been hypertensive and has significant 
small vessel disease on MRI, but he is unwilling to start taking 
a BP medication. We treated him empirically with high dose IV 
thiamine while inpatient for possible Wernicke's Encephalopathy. 
His ataxia improved but did not resolve. He was seen by ___ who 
recommended discharge to rehab, but he refused this as well.

TRANSITIONAL ISSUES:
- Small intracranial aneurysms were found on vessel imaging - he 
should have repeat vessel imaging in ___ months to trend 
stability
- He refused malignancy screening given concern for possible 
paraneoplastic syndrome - This can be reconsidered as an 
outpatient
- He refused a lumbar puncture for further evaluation - this can 
be reconsidered on an outpatient basis if the patient changes 
his mind
- Serum paraneoplastic panel was pending at the time of 
discharge
- Would consider starting a BP medication if the patient is 
willing to do this

Authors: ___ MD
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Rosuvastatin Calcium 5 mg PO QPM 

 
Discharge Medications:
1.  ClonazePAM 0.5 mg PO DAILY:PRN vertigo 
RX *clonazepam 0.5 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0 
2.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth Daily 
Disp #*30 Tablet Refills:*2 
3.  Rosuvastatin Calcium 20 mg PO QPM 
RX *rosuvastatin [Crestor] 20 mg 1 tablet(s) by mouth Every 
evening Disp #*30 Tablet Refills:*2 
4.  Aspirin 81 mg PO DAILY  
5.Outpatient Physical Therapy
6.Rolling Walker
Dx: Gait Ataxia
Prognosis: Pt to recover over months
Length of need: 1 ___ year

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gait Ataxia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized because you developed unsteady walking. A 
brain MRI showed no stroke or tumor. You refused further testing 
to help figure out what caused this. We gave you vitamin B1 (aka 
thiamine) since low B1 levels can cause your symptoms and you 
improved. Please continue taking thiamine after discharge.

You were seen by physical therapy who recommended you go to 
rehab before going home. You are at high risk for falling 
because of your balance problems. You declined this 
recommendation and instead would like to be discharged home. 

You asked if restarting clonazepam will improve your walking. 
Taking this medication will not cure your balance problems - it 
is actually more likely to worsen your symptoms. We will 
discharge you home with a prescription to tide you over until 
you can see your PCP, but we will not provide refills and you 
will need to discuss the need for this medication with your PCP. 
We do not think you have a medical indication for taking this 
medication.
 
Followup Instructions:
___